US09402850B2
3-((2-Nitro-9H-fluoren-9-ylidene)methyl)pyridin-2(1H)-one (CYD-1-93)
To a solution of 2-nitrofluorene (326 mg, 1.54 mmol) and 2-oxo-1,2-dihydro-pyridine-3-carbaldehyde (19 mg, 1.54 mmol) in 10 mL of methanol was added KF—Al2O3 (224 mg, 1.38 mmol). The resulting mixture was stirred at 85° C. After 24 hrs, TLC indicated that a new product was produced and lots of starting material was still remained. 40 mL of CH2Cl2 was added into the reaction mixture. The insoluble solid was filtrated, and the filtrate was concentrated under vacuum to give a yellow solid, which was purified by silica gel column; eluting with 60% EtOAc in hexane afforded 26 mg of CYD-1-93 as a yellow solid. 1H-NMR (600 MHz, d6-DMSO) δ 12.18 (br s, 2H), 8.77 (d, 1H, J=1.8 Hz), 8.52 (d, 1H, J=1.8 Hz), 8.28 (m, 2H), 8.15 (m, 2H), 8.10 (d, 1H, J=7.8 Hz), 8.06 (m, 2H), 7.97 (m, 2H), 7.86 (m, 2H), 7.80 (s, 1H), 7.63 (m, 1H), 7.59 (m, 1H), 7.49 (m, 3H), 7.37 (m, 1H), 6.40 (m, 2H). 13C-NMR (150 MHz, CDCl3) δ 161.2, 161.1, 146.9, 146.2, 146.1, 143.6, 142.1, 141.7, 140.5, 139.6, 138.3, 137.3, 136.1, 136.0, 133.6, 133.4, 129.3, 129.1, 129.0, 128.8, 127.9, 127.4, 126.1, 125.9, 124.0, 123.9, 123.5, 121.9, 121.5, 121.1, 120.7, 120.5, 119.0, 105.1, 105.0.

reactant | 2-nitrofluorene | 1.54 mmol, 326 mg | [N+](=O)([O-])C1=CC=2CC3=CC=CC=C3C2C=C1 | C13H9NO2
reactant | 2-oxo-1,2-dihydro-pyridine-3-carbaldehyde | 1.54 mmol, 19 mg | O=C1NC=CC=C1C=O | C6H5NO2
reactant | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 10 mL | CO | CH4O
product | 3-((2-Nitro-9H-fluoren-9-ylidene)methyl)pyridin-2(1H)-one | [N+](=O)([O-])C1=CC=2C(C3=CC=CC=C3C2C=C1)=CC=1C(NC=CC1)=O | C19H12N2O3
